Name:  ___                 Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
___
 
Attending: ___
 
Chief Complaint:
Chest pain
 
Major Surgical or Invasive Procedure:
Coronary angiography and deployment of a drug-eluting stent in 
the LAD (___)
 
History of Present Illness:
___ yo man with H/O hypertension and NASH who presented with 
chest pain with exertion x 6 days.

Patient reports\ed experiencing tightness in substernal area 
with minimal exertion for the past week. Pain was described as 
tightness in substernal area, non-radiating with no associated 
symptoms (including nausea, vomiting, diaphoresis, or dyspnea). 
He stated that the pain was severe, ___ at times, but mild at 
other times. It was relieved shortly (within a few seconds) with 
rest. He does not take nitroglycerine tablets. Yesterday, he was 
walking and shopping, and the pain came on severely which 
prompted him to present to the ___ 
___ Urgent ___. There, troponin-I was 0.16 with CK-MB 
5.6. He was given ASA 325 mg and sent to ___ ED for further 
evaluation.

In the ED initial vitals were: T 98.6 HR 100 BP 216/127 RR 16 
SaO2 96% on RA. EKG showed NSR at 92 bpm, left axis deviation, 
normal intervals, Q waves and T wave inversion in leads III and 
aVF. Labs/studies notable for troponin-T negative, MB 7, BMP 
WNL, CBC WNL, ALT 66 and AST 47, coags WNL. Patient was given 
nitroglycerine SL x1, acetaminophen 1000 mg, labetalol 5 mg IV 
x2. Cardiology was consulted and recommended cycling biomarkers 
and stress test in the morning. However, second and third set of 
troponin-T were elevated to 0.02->0.03. Patient was admitted to 
___ for further management. Vitals on transfer T 99.1 HR 78 BP 
153/98 RR 20 SaO2 98% on RA.

After arrival to the cardiology ward, patient denied any chest 
pain or shortness of breath. He stated that pain comes on with 
exertion, not at rest. He says that he's been doing a lot of 
heavy lifting over the past month due to a recent move. He 
denied any dyspnea, orthopnea, paroxysmal nocturnal dyspnea, 
changes in weight, or lower extremity edema.
 
Past Medical History:
-Hypertension
-___
 
Social History:
___
Family History:
Father with hypertension, type 2 diabetes mellitus, and died 
suddenly at age of ___. Mother and sister with hypertension.
 
Physical Exam:
On admission
Gen: well appearing youthful middle aged white man in NAD
HEENT: PERRL, EOMI, nares clear, OP clear
Neck: supple, no JVP sitting upright
CV: RRR, (+)S1, S2; no murmurs, rubs or gallops
Lungs: CTAB
Abd: soft, non-tender, not distended, (+)BS, no organomegaly
Extrem: warm and well perfused, ___ without edema
Neuro: AAOx3, moves all extremities spontaneously

At discharge
Gen: well appearing, NAD
VS: T 97.7 BP 130-50/70-90 HR 99 (74-99) RR 18 SaO2 96% on RA
I/O: ___
HEENT: nares clear, OP clear
Neck: supple, no JVP sitting upright
CV: RRR, (+)S1, S2; no murmurs, rubs or gallops
Lungs: CTAB
Abd: soft, non-tender, not distended, (+)BS, no organomegaly
Extrem: Right wrist with bandage over access site which was 
clean, dry and intact; intact radial pulse, hands warm and well 
perfused bilaterally; ___ without edema
Neuro: AAOx3, moves all extremities spontaneously
 
Pertinent Results:
___ 04:00PM   WBC-8.5 RBC-4.29* HGB-14.1 HCT-41.4 MCV-97 
MCH-32.9* MCHC-34.1 RDW-12.3 RDWSD-43.5
___ 04:00PM   NEUTS-67.6 ___ MONOS-8.0 EOS-3.3 
BASOS-0.8 IM ___ AbsNeut-5.75 AbsLymp-1.68 AbsMono-0.68 
AbsEos-0.28 AbsBaso-0.07
___ 04:48PM   ___ PTT-33.8 ___

___ 04:00PM   GLUCOSE-109* UREA N-17 CREAT-0.9 SODIUM-140 
POTASSIUM-3.9 CHLORIDE-102 TOTAL CO2-25 ANION GAP-17
___ 04:00PM   ALT(SGPT)-66* AST(SGOT)-47* CK(CPK)-227 ALK 
PHOS-87 TOT BILI-0.5
___ 04:00PM   LIPASE-22
___ 10:50AM   %HbA1c-5.6 eAG-114
___ 10:50AM   Calcium-9.0 Phos-3.8 Mg-1.8 Cholest-172
___ 10:50AM   Triglyc-85 HDL-58 CHOL/HD-3.0 LDLcalc-97

___ 04:00PM   CK-MB-7   cTropnT-<0.01
___ 10:30PM   CK-MB-6   cTropnT-0.02*
___ 04:00AM             cTropnT-0.03*
___ 11:15PM   CK-MB-4   cTropnT-0.07*
___ 04:50AM   CK-MB-4   cTropnT-0.09*

ECG ___ 3:08:14 ___
Sinus rhythm. Normal tracing. No previous tracing available for 
comparison.

CXR ___
Cardiac silhouette size is normal. The mediastinal and hilar 
contours are unremarkable. Pulmonary vasculature is not 
engorged. Apart from minimal atelectasis in the left lung base, 
the lungs are clear without focal consolidation. No pleural 
effusion or pneumothorax is seen. No acute osseous abnormality 
is visualized.
IMPRESSION: No acute cardiopulmonary abnormality. 

Echocardiogram ___
The left atrium is normal in size. No atrial septal defect is 
seen by 2D or color Doppler. Left ventricular wall thicknesses 
are normal. The left ventricular cavity size is normal. There is 
mild regional left ventricular systolic dysfunction suggested 
with focal distal septal hypokinesis (not clearly seen but 
suggested). No masses or thrombi are seen in the left ventricle. 
There is no ventricular septal defect. Right ventricular chamber 
size and free wall motion are normal. The aortic root is mildly 
dilated at the sinus level. There is no aortic valve stenosis. 
No aortic regurgitation is seen. Trivial mitral regurgitation is 
seen. The pulmonary artery systolic pressure could not be 
determined. There is no pericardial effusion. 

Coronary angiography/PCI ___: 
Coronary anatomy:
Right dominant
LM: No disease.
LAD: 95% mid vessel stenosis.
LCx: No significant disease.
RCA: No significant disease.  
Interventional details:
  After discussion with the admitting cardiologist and the 
patient, we proceeded with PCI of the LAD. UFH anticoagulation.
  Wired with a Runthrough wire. Angioplasty with a 2.5 compliant 
balloon followed by placement of a 3.0 x 32 Promus Premier DES. 
Post-dilated with 3.25 NC balloon at high pressure. TIMI III 
flow, 0% residual.

DISCHARGE LABS:
___ 04:50AM BLOOD WBC-9.5 RBC-3.90* Hgb-13.0* Hct-38.3* 
MCV-98 MCH-33.3* MCHC-33.9 RDW-12.3 RDWSD-44.1 Plt ___
___ 04:50AM BLOOD Glucose-114* UreaN-16 Creat-1.0 Na-140 
K-3.8 Cl-102 HCO3-28 AnGap-14
 
Brief Hospital Course:
Mr. ___ is a ___ yo man with H/O hypertension and ___ who 
presented with exertional chest pain x 6 days with minimally 
elevated troponin-T and normal MB concerning for NSTEMI 
(biomarker positive unstable) angina. Coronary angiography 
showed significant mid LAD disease treated successfully with ___ 
___. 

# Chest pain: Patient had unstable new onset exertional angina 
without rest pain and without ischemic ECG changes. In the 
setting of markedly elevated blood pressure (see below), his 
troponin-T rose steadily to 0.03 at the ___ with normal renal 
function, indicative of a tiny NSTEMI. He was loaded with 
aspirin and placed on aspirin 81 mg daily and atorvastatin 80 mg 
qHS. He was started on a heparin gtt. Coronary angiography on 
___ was notable for 95% stenosis of the mid LAD treated with 
1 drug-eluting stent with rise in troponin-T to 0.09 post-PCI 
(with normal MB). He will continue on ASA 81 mg daily, 
ticagrelor 9 0mg BID, atorvastatin 80 mg qPM and carvedilol 25 
mg BID. Suboptimal echocardiogram showed LVEF 55% with 
suggestion of focal distal septal hypokinesis. He will follow up 
with Cardiology in 1 month. The patient was provided referral 
information and a prescription for outpatient cardiac 
rehabilitation.

# Hypertensive emergency: BP to 200s/120s on presentation, 
treated with labetalol IV twice in the ED. Patient was 
reportedly on losartan-hydrochlorothiazide 100/25 mg at home, 
although unclear if compliant. There was concern for end-organ 
dysfunction with elevated troponin-T indicative of an NSTEMI. He 
had no alteration of mental status nor ___. Hypertension control 
was achieved with the addition of of carvedilol with losartan. 
He will continue on regimen of losartan 100 mg daily + 
carvedilol 25 mg BID.

# ___: Patient with reported history of NASH, baseline 
transaminase elevation. Noted to have elevated AST/ALT on 
admission. Checking hepatitis serologies and RUQ U/S was 
deferred to his outpatient providers.

TRANSITIONAL ISSUES:
[] should get CBC/lytes checked at PCP visit on ___ to 
monitor for ___
[] S/p ___, started on ASA 81 mg daily and ticagrelor 
90 mg BID. To prevent stent thrombosis, he will need to continue 
ASA 81 mg for life and ticagrelor 90 mg BID for at least ___ year. 
His daily dose of ASA should not exceed 100 mg daily while on 
ticagrelor.
[] Presented with poor BP control, unclear if compliant on prior 
home regimen. Continued on losartan 100 mg daily, added 
carvedilol 25 mg BID for hypertension and post-MI secondary 
prevention
[] Patient with transamitis, attributed to ___ in outpatient 
notes. Should consider checking hepatitis serologies/RUQ U/S as 
outpatient
#Code: FULL
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. losartan-hydrochlorothiazide 100-25 mg oral DAILY 
2. Aspirin 81 mg PO DAILY 
3. Multivitamins 1 TAB PO DAILY 
4. Omeprazole 20 mg PO EVERY OTHER DAY
 
Discharge Medications:
1. TiCAGRELOR 90 mg PO BID 
RX *ticagrelor [BRILINTA] 90 mg 1 tablet(s) by mouth twice a day 
Disp #*60 Tablet Refills:*0
2. Aspirin 81 mg PO DAILY 
3. Multivitamins 1 TAB PO DAILY 
4. Omeprazole 20 mg PO EVERY OTHER DAY 
5. Thiamine 100 mg PO DAILY 
RX *thiamine HCl (vitamin B1) 100 mg 1 tablet(s) by mouth daily 
Disp #*30 Tablet Refills:*0
6. FoLIC Acid 1 mg PO DAILY 
RX *folic acid 1 mg 1 tablet(s) by mouth daily Disp #*30 Tablet 
Refills:*0
7. Atorvastatin 80 mg PO QPM 
RX *atorvastatin 80 mg 1 tablet(s) by mouth daily Disp #*30 
Tablet Refills:*0
8. Carvedilol 25 mg PO BID 
RX *carvedilol 25 mg 1 tablet(s) by mouth twice a day Disp #*60 
Tablet Refills:*0
9. Losartan Potassium 100 mg PO DAILY 
RX *losartan 100 mg 1 tablet(s) by mouth daily Disp #*30 Tablet 
Refills:*0
 
Discharge Disposition:
Home
 
Discharge Diagnosis:
-Non-ST segment elevation myocardial infarction
-Coronary artery disease
-Hypertension with hypertensive emergency
-Abnormal liver function tests
-Non-alcoholic steatohepatitis
 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.
 
Discharge Instructions:
Dear Mr. ___,

It was a pleasure taking care of you at the ___ 
___. 

You were admitted because you had a heart attack. You underwent 
cardiac catheterization which revealed 95% occlusion of the left 
anterior descending coronary artery, a major artery in your 
heart. You had one stent placed. 

It is very important to take all of your heart healthy 
medications. 

You are now on aspirin 81mg. You need to take aspirin everyday. 
If you stop taking aspirin, you risk the stent clotting and 
death. Do not stop taking aspirin unless you are told by your 
cardiologist. Please do not take more than 81mg of aspirin in a 
day either. If another doctor wants you to stop, please have 
them discuss with your cardiologist first.

You are now on Brilinta (also known as ticagrelor); you will 
take 90mg twice daily. This medication helps keep your stent 
open. Do not stop taking Brilinta unless you are told by your 
cardiologist. If another doctor wants you to stop, please have 
them discuss with your cardiologist first.

In addition, you will need to continue taking medications to 
help with your high blood pressure. You should continue taking 
losartan 100mg daily as well as carvedilol 25mg twice daily. 
Please check your blood pressure at home. 

We wish you all the best, 

Your ___ Cardiology team
 
Followup Instructions:
___